Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Anemia
 
Major Surgical or Invasive Procedure:
___ EGD

 
History of Present Illness:
Ms. ___ is a ___ F with h/o diet-controlled diabetes,
hypertension and hyperlipidemia who was sent in by PCP for
anemia. 

The patient was seen by her PCP in the office on ___.  She
was complaining of palpitations that she attributed to social
stressors.  She claimed that she had been living with her
daughter and 3 small Grandchildren, who are always making noise
and disturbances at home.  She thinks that her anxiety is
secondary to the circumstances, and that is why she developed
palpitations.  She has never had palpitations in the past.

She denied chest pain, shortness of breath, dyspnea on exertion,
peripheral edema.  Denied dysuria, headaches, dizziness.

The PCP checked an EKG and a CBC.  The CBC was notable for
hemoglobin of 4.2, so she was sent to the emergency department.

On evaluation in the emergency department, her vital signs were
stable.

Labs notable for hemoglobin of 3.9 from 4.2.

She was given 2u pRBCs.

The patient states that she felt nervous.  Denies black bloody
stools, chest pain, shortness of breath.  Denies syncope,
dizziness. Denies vaginal bleeding.

Rectal exam was performed in the emergency department with 
guaiac
positive stool.

Of note, the patient's last colonoscopy was in ___.  It
showed diverticulosis, but a normal colon otherwise.  Her last
hemoglobin was in ___, and it was 12.

On arrival to the floor, the history was obtained using the
patient's daughter as a ___. The patient reports 2 weeks
of heart palpitations.  She does not report weight loss, 
fatigue,
shortness of breath.  She again comments that her stool has been
normal in color and consistency. Denies taking any new
medications or supplements.

 
Past Medical History:
Type 2 diabetes (diet-controlled, no meds)
Hypertension
Hyperlipidemia
Upper GI bleed (___)
Iron deficiency anemia (Dx'd ___

 
Social History:
___
Family History:
No known history of colon, breast, ovarian cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: 98.4 89 127/51 18 98% RA
GENERAL: NAD, smiling while resting in bed
HEENT: AT/NC, scleral pallor
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM:
========================
VS: 98.4 85 122/61 18 97% RA
GENERAL: lying in bed, NAD
HEENT: AT/NC, conjunctival pallor
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric

 
Pertinent Results:
ADMISSION LABS:
===============
___ 02:30PM BLOOD WBC-7.8 RBC-2.26* Hgb-4.2* Hct-15.6* 
MCV-69* MCH-18.6* MCHC-26.9* RDW-17.3* RDWSD-43.4 Plt ___
___ 12:44AM BLOOD WBC-8.3 RBC-2.10* Hgb-3.9* Hct-14.5* 
MCV-69* MCH-18.6* MCHC-26.9* RDW-17.2* RDWSD-42.9 Plt ___
___ 12:44AM BLOOD Neuts-67.6 ___ Monos-9.2 Eos-0.8* 
Baso-0.2 Im ___ AbsNeut-5.59 AbsLymp-1.80 AbsMono-0.76 
AbsEos-0.07 AbsBaso-0.02
___ 12:44AM BLOOD ___ PTT-23.0* ___
___ 02:30PM BLOOD UreaN-18 Creat-0.9 Na-138 K-4.2 Cl-98 
HCO3-25 AnGap-15
___ 02:30PM BLOOD Albumin-4.4 Calcium-9.1 Phos-3.8 Mg-2.1
___ 02:30PM BLOOD ALT-9 AST-17 LD(LDH)-191 AlkPhos-91 
TotBili-0.2 DirBili-<0.2 IndBili-0.2

PERTINENT LABS/MICRO/IMAGING:
=============================
___ 12:44AM BLOOD Ret Aut-2.3* Abs Ret-0.05
___ 02:30PM BLOOD Hapto-179
___ 12:44AM BLOOD calTIBC-488* Ferritn-6.6* TRF-375*
___ 09:12AM BLOOD VitB12-470
___ 02:30PM BLOOD TSH-2.1

EGD ___:
-a single non-bleeding erosion was noted in the antrum.
-a single small non-bleeding angioectasia was seen in the third 
part of the duodenum.

Gastrointestinal mucosal biopsies, 2:
1. Stomach:
-Antral and corpus mucosa with chronic active gastritis, 
organisms morphologically compatible with
H. pylori, and focal superficial erosion.
2. Duodenum:
-Duodenal mucosa, within normal limits.

DISCHARGE LABS:
===============
___ 12:44PM BLOOD WBC-9.1 RBC-3.48* Hgb-7.9* Hct-26.5* 
MCV-76* MCH-22.7* MCHC-29.8* RDW-19.8* RDWSD-53.5* Plt ___
___ 06:30AM BLOOD Glucose-105* UreaN-17 Creat-1.0 Na-140 
K-4.2 Cl-103 HCO3-24 AnGap-13
___ 06:30AM BLOOD Calcium-8.9 Phos-2.8 Mg-1.8
 
Brief Hospital Course:
Pt is a ___ y/o F w/ history of HTN, borderline T2DM, and 
hyperlipidemia who presented with palpitations and Hb of 4.2, 
found to have a non-bleeding gastric erosion and a non-bleeding 
duodenal angioectasia on EGD. 

ACUTE
=====
#Microcytic anemia
#GI bleed
Pt presented with a Hbg of 4.2 but was hemodynamically stable 
with no systemic symptoms, reflux, or known blood loss either 
through stool or emesis. Her iron studies and low MCV, lack of 
visible bleeding, and hemodynamic stability point toward a 
chronic occult blood loss. Hemolytic studies were negative. Her 
Hbg responded appropriately to transfusion, supporting a 
non-active or very slow bleed. Her last colonoscopy in ___ 
showed diverticulosis, making a lower GI bleed less likely, 
therefore an upper GI bleed was suspected and pantoprazole was 
administered and an EGD was performed. The EGD showed a 
non-bleeding erosion in the antrum (biopsies obtained, results 
pending at the time of discharge) and a non-bleeding 
angioectasia in the duodenum. A capsule study was scheduled as 
an outpatient to identify any additional areas of bleeding in 
the small bowel. At discharge, pt was stable. 

CHRONIC
=======
#HTN
Pts home medications were held to maintain her blood pressure 
while admitted but her blood pressures were stable and therefore 
were restarted for discharge.

#HLD
Pts home pravastatin was administered. Aspirin was held due to 
bleeding risk. 

#Diet controlled diabetes
Pt received insulin on sliding scale. 

Transitional Issues:
====================
[] Discharge hemoglogin: 7.9
[] Follow up with GI for capsule study
[] Follow up on biopsy results from the EGD
[] Started on pantoprazole 40 mg qd per GI for gastric erosion. 
Treatment course per GI. 
[] Begin iron infusions to normalize Hbg (would advise avoiding 
oral iron supplementation in the setting of concomitant therapy 
with PPI).
[] Held home HTN medications during hospitalization and on 
discharge due to normotension at that time. Please follow up 
blood pressure and restart accordingly.
[] Held home aspirin due to bleeding risk iso of GI bleed. 
Please clarify with GI if and when okay to restart. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever 
2. Lisinopril 2.5 mg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Pravastatin 40 mg PO QPM 
6. Aspirin 81 mg PO DAILY 
7. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever  
3.  Docusate Sodium 100 mg PO BID  
4.  Pravastatin 40 mg PO QPM  
5. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until told to do so by your doctor.
6. HELD- Hydrochlorothiazide 25 mg PO DAILY  This medication was 
held. Do not restart Hydrochlorothiazide until told to do so by 
your doctor.
7. HELD- Lisinopril 2.5 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until told to do so by your doctor.
8. HELD- Metoprolol Succinate XL 25 mg PO DAILY  This medication 
was held. Do not restart Metoprolol Succinate XL until told to 
do so by your doctor.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
-Occult upper gastrointestinal bleed
-Iron deficiency anemia

 
Discharge Condition:
Mental status and ambulatory status preserved. 

 
Discharge Instructions:
Dear ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You had heart palpitations and were found to have a very low 
hemoglobin, meaning that you were probably losing small amounts 
of blood slowly over time, likely from your GI tract.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were given blood transfusions, which helped you feel 
better and brought your hemoglobin levels up. 
- You were started on a proton pump inhibitor 
(Protonix/pantoprazole), a medication that reduces the acid in 
your stomach. 
- You had a procedure called an Esophagogastroduodenoscopy (or 
EGD, for short) in which the gastroenterology doctors put ___ 
___ down your mouth and into your stomach to look for 
potential sources of bleeding. They saw an erosion and some 
blood vessels, but there was no evidence of active bleeding at 
the time. They would like you to follow up with them in their 
clinic, and at that time you will have a capsule endoscopy to 
better evaluate your GI tract for bleeding.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please follow up with a gasteroenterologist at the appointment 
specified below on this worksheet. 
- Please follow up with your primary care provider at the 
appointment specified below on this worksheet. 
- Please do not take your home medications until you talk with 
your primary care provider. You may continue to take 
pravastatin. 
- Please begin taking pantoprazole to reduce the amount of acid 
in your stomach.
- Please talk to your primary care provider about beginning iron 
infusions.

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___